US05036075
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (11.2 g), triethylamine (16.8 cc) and 4- (3-hydroxyphenyl)piperazine dihydrobromide (13.6 g) in dimethylformamide (250 cc). The mixture is heated for 6 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is maintained for 6 hours at this temperature. After purification by crystallization from isopropyl oxide (30 cc), then recrystallization from boiling acetonitrile (125 cc), 2-{3-[4-(3-hydroxyphenyl)-1-piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (4.6 g) is obtained, m.p. 175° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 11.2 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 16.8 cc | C(C)N(CC)CC | C6H15N
reactant | 4- (3-hydroxyphenyl)piperazine dihydrobromide | 13.6 g | Br.Br.OC=1C=C(C=CC1)N1CCNCC1
solvent | dimethylformamide | 250 cc | CN(C=O)C | C3H7NO
product | 2-{3-[4-(3-hydroxyphenyl)-1-piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 4.6 g | OC=1C=C(C=CC1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H25N3O3S
